*****************************************************************
* NXP BUK9Y19-100E
*
* Polarity N-Channel
* Ratings 100V/1.900000E-002OHMS/56.3758409576449A
*
* Date Created Fri Sep 27 05:52:37 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9Y19-100E DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 1.58336269740926
RLS1 8 7 0.00024

RDS 7 4 10000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0133151139290286 TC=-0.0781572632359099,0.00198513411700269
RBD 9 4 0.00089496402324299 TC=-0.0781572632359099,0.00198513411700269
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 3.681e-09
RG 1 2 2.14052

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	2492
+ -16	2491
+ -10	2486
+ -5	2471
+ -4	2463
+ -3	2438
+ -2	2124
+ -1	2661
+ -0.5	1896
+ -0.2	1284
+ -0.1	1114
+ 0	973.5
+ 0.1	843
+ 0.2	753
+ 0.5	610
+ 1	496
+ 2	362
+ 3	304
+ 4	277
+ 5	257
+ 6	240
+ 8	214
+ 10	195
+ 12	181
+ 15	165
+ 20	146
+ 30	120
+ 50	95



.MODEL MINT NMOS(Vto=2.16761607523833 Kp=3.756407e+002 Nfs=430000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-004 Rs=1E-6 Is=1.16152188652576e-12
+ N=1 M=0.59 VJ=0.58 Fc=0.5 Cjo=8.23e-10 Tt=2.856e-08)

.ENDS

